US04398029
A mixture of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (0.43 g), 3-hydroxypiperidine (1.6 g), and pyridine (3 ml) was refluxed for 6 hours. The mixture was evaporated to dryness, treated with water, acidified with acetic acid, and extracted with dichloromethane. The dichloromethane layer was washed with water, dried over anhydrous sodium sulfate, and evaporated. The residue was recrystallized from a mixture of DMF and ethanol to give 1-ethyl-6,8-difluoro-1,4-dihydro-7-(3-hydroxy-1-piperidinyl)-4-oxoquinoline-3-carboxylic acid (0.3 g), mp 232°-234° C.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.43 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 3-hydroxypiperidine | 1.6 g | OC1CNCCC1 | C5H11NO
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 1-ethyl-6,8-difluoro-1,4-dihydro-7-(3-hydroxy-1-piperidinyl)-4-oxoquinoline-3-carboxylic acid | 0.3 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CCC1)O)F)=O)C(=O)O | C17H18F2N2O4
